US08729068B2
A mixture of 1.00 g of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 0.22 mL of cyclopropylamine, and 10 mL of dichloromethane was stirred at room temperature for 2 hours. The reaction mixture was purified by silica gel column chromatography (hexane-chloroform) to obtain 850 mg of methyl 4-[2-(4-{[(2-{[3-(cyclopropylsulfamoyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate as a pale yellow solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 1.00 g | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | cyclopropylamine | 0.22 mL | C1(CC1)N | C3H7N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 4-[2-(4-{[(2-{[3-(cyclopropylsulfamoyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 850 mg | C1(CC1)NS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C35H35N3O6S2
